US07989438B2
Step 5: methyl 7(R,S)-(2-aminoethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate
Platinum(IV) oxide (0.5 eq) was added to a solution of methyl 7(R,S)-(cyanomethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate (0.20 M) in MeOH. The atmosphere in the reaction vessel was exchanged for H2 and the reaction stirred vigorously at RT for 4 h. The reaction vessel was flushed with N2 and the reaction mixture filtered through a plug of celite (washing well with MeOH and EtOAc). Volatiles were removed in vacuo to afford the crude product which was purified by FC (EtOAc/MeOH/Et3N 93:5:2) affording the product as a yellow oil (12%). (ES+) m/z 433 (M+H)+.

reactant | methyl 7(R,S)-(cyanomethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 0.20 M | C(#N)CC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C27H28N2O3
solvent | MeOH | CO | CH4O
catalyst | Platinum(IV) oxide | 0.5 eq | [Pt](=O)=O
product | methyl 7(R,S)-(2-aminoethyl)-14-cyclohexyl-7,8-dihydro-6H-indolo[1,2-e][1,5]benzoxazocine-11-carboxylate | 12% | NCCC1COC2=C(C=3N(C1)C=1C=C(C=CC1C3C3CCCCC3)C(=O)OC)C=CC=C2 | C27H32N2O3
